US07714010B2
d) (rac)-5-Amino-3-isopropyl-1-methyl-6-nitro-1,3-dihydro-indol-2-one (A23)
(rac)-N-(3-Isopropyl-1-methyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (686 mg) is dissolved in 2-propanol (4 ml) and hydrochloric acid (6 N; 6 ml) and heated for 1 h at 100° C. After a typical aqueous work-up the crude material is purified by flash chromatography on silica gel eluting with light petroleum/EtOAc (1:1) to give the title compound (429 mg).

reactant | (rac)-N-(3-Isopropyl-1-methyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 686 mg | C(C)(C)C1C(N(C2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])C)=O | C14H17N3O4
reactant | hydrochloric acid | 6 N, 6 ml | Cl | ClH
solvent | 2-propanol | 4 ml | CC(C)O | C3H8O
product | (rac)-5-Amino-3-isopropyl-1-methyl-6-nitro-1,3-dihydro-indol-2-one | 429 mg | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])C)=O)C(C)C | C12H15N3O3
